US05420323
Using the same apparatus and procedure described in EXAMPLE 1, 25.3 g (0.21 mol) of vinyldimethylchlorosilane and 50 μl of 1% chloroplatinic acid in isopropanol were added to the flask. Through the dropping funnel was added dropwise 10 g (0.07 mol) of allyldichlorosilane for 30 rain at 80° C. and the solution was further reacted for 2 hrs to complete the reaction. Vacuum distillation (48°-52° C./0.5 torr) of the product mixture gave 16.2 g (89%) of 7-methyl-4,4,7-trichloro-4,7-disila-1-octene.

reactant | vinyldimethylchlorosilane | 0.21 mol, 25.3 g | C(=C)[Si](Cl)(C)C | C4H9ClSi
reactant | allyldichlorosilane | 0.07 mol, 10 g | C(C=C)[SiH](Cl)Cl | C3H6Cl2Si
solvent | isopropanol | C(C)(C)O | C3H8O
catalyst | chloroplatinic acid | 50 μl | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
product | 7-methyl-4,4,7-trichloro-4,7-disila-1-octene | 16.2 g, 89% | C[Si](CC[Si](CC=C)(Cl)Cl)(C)Cl | C7H15Cl3Si2
